US08859569B2
2-[1-(2-Fluorobenzyl)-6-methyl-1H-pyrazolo[3,4-d]pyrimidin-3-yl]-4-iodo-5,5-dimethyl-5,7-dihydro-6H-pyrrolo[2,3-d]pyrimidin-6-one
3.770 g (14.08 mmol) of diiodomethane and 411 mg (3.51 mmol) of isopentyl nitrite were added to 70 mg (0.17 mmol) of 4-amino-2-[1-(2-fluorobenzyl)-6-methyl-1H-pyrazolo[3,4-d]pyrimidin-3-yl]-5,5-dimethyl-5,7-dihydro-6H-pyrrolo[2,3-d]pyrimidin-6-one. The mixture was stirred for 8 h at 85° C. After cooling, it was diluted with acetonitrile and the mixture was purified by preparative HPLC (eluent: acetonitrile/water, gradient 30:70→95:5). 35 mg (24% of theor.) of the target compound was obtained.

reactant | diiodomethane | 14.08 mmol, 3.770 g | ICI | CH2I2
reactant | isopentyl nitrite | 3.51 mmol, 411 mg | N(=O)OCCC(C)C | C5H11NO2
reactant | 4-amino-2-[1-(2-fluorobenzyl)-6-methyl-1H-pyrazolo[3,4-d]pyrimidin-3-yl]-5,5-dimethyl-5,7-dihydro-6H-pyrrolo[2,3-d]pyrimidin-6-one | 0.17 mmol, 70 mg | NC=1C2=C(N=C(N1)C1=NN(C3=NC(=NC=C31)C)CC3=C(C=CC=C3)F)NC(C2(C)C)=O | C21H19FN8O
solvent | acetonitrile | C(C)#N | C2H3N
product | 2-[1-(2-Fluorobenzyl)-6-methyl-1H-pyrazolo[3,4-d]pyrimidin-3-yl]-4-iodo-5,5-dimethyl-5,7-dihydro-6H-pyrrolo[2,3-d]pyrimidin-6-one | FC1=C(CN2N=C(C=3C2=NC(=NC3)C)C=3N=C(C2=C(N3)NC(C2(C)C)=O)I)C=CC=C1 | C21H17FIN7O
